US08283353B2
[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetic acid
A mixture of ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate (1.1 g), 1N aqueous sodium hydroxide solution (10 mL), methanol (10 mL) and tetrahydrofuran (10 mL) was stirred at room temperature for 2 hr. The reaction mixture was adjusted to pH 4 with water (20 mL) and 1 N hydrochloric acid, and extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.9 g, 90%).

reactant | ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 1.1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C32H35N5O4
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetic acid | 0.9 g, 90% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)O)=O | C30H31N5O4
